US04435406
12.7 g of 1,1,3,3-tetramethyl-5,6-dinitro-2-indanone were dissolved in 500 ml of methanol in a hydrogenation flask and hydrogenated with Raney-nickel. After the H2 -uptake of 6.2 l (theory=6.15 l), the catalyst was removed by filtration under suction, the filtrate was again filtered and then evaporated in vacuo. The residue was crystallized from acetonitrile. There were obtained 9.5 g (95.5% of theory) of 5,6-diamino-1,1,3,3-tetramethyl-2-indanone of melting point 179°-180° C.

reactant | 1,1,3,3-tetramethyl-5,6-dinitro-2-indanone | 12.7 g | CC1(C(C(C2=CC(=C(C=C12)[N+](=O)[O-])[N+](=O)[O-])(C)C)=O)C | C13H14N2O5
solvent | methanol | 500 ml | CO | CH4O
solvent | Raney-nickel | [Ni] | Ni
product | 5,6-diamino-1,1,3,3-tetramethyl-2-indanone | 9.5 g, 95.5% | NC=1C=C2C(C(C(C2=CC1N)(C)C)=O)(C)C | C13H18N2O
